US04582837
5-Methoxy-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole
Prepared analogously to Example 1 from 5-methoxy-2-(2'-methoxy-4'-hydroxy-phenyl)-benzimidazole and methanesulfonic acid chloride.

reactant | 5-methoxy-2-(2'-methoxy-4'-hydroxy-phenyl)-benzimidazole | COC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)O)OC)C=C1 | C15H14N2O3
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-Methoxy-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole | COC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC)C=C1 | C16H16N2O5S
